US07855292B2
I. (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3,3-bis-(4-chloro-phenyl)-propionic acid methyl ester
The title compound (48 mg, 94%) was obtained from 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid and (S)-2-amino-3,3-bis-(4-chloro-phenyl)-propionic acid methyl ester as in Example 1, Part C. 1H NMR (500 MHz, CDCl3): 11.28 (s, 1H), 8.37 (dd, J=7.0, 1.0, 1H), 8.22 (dd, J=8.8, 1.0, 1H), 7.72 (dd, J=8.8, 7.1, 1H), 7.68 (d, J=1.9, 1H), 7.32-7.28 (m, 4H), 7.20-7.15 (m, 4H), 6.96 (d, J=8.5, 1H), 6.87 (dd, J=8.4, 2.0, 1H), 6.21 (br d, J=8.8, 1H), 5.50 (t, J=8.5, 1H), 4.48 (d, J=8.3, 1H), 3.63 (s, 3H).

reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | (S)-2-amino-3,3-bis-(4-chloro-phenyl)-propionic acid methyl ester | COC([C@H](C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)N)=O | C16H15Cl2NO2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3,3-bis-(4-chloro-phenyl)-propionic acid methyl ester | 48 mg, 94% | COC([C@H](C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C29H21Cl3N4O5S2
